US09260416B2
Step 7: {4-[6-Chloro-1-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl]-pyrazol-1-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 9, Step 4, using the following starting materials: [4-(6-chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester and 4-bromo-1-ethyl-1H-pyrazole.

reactant | [4-(6-chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SC1=C(NC2=C(C(=CC=C12)Cl)F)C)=O | C16H15ClFN3O2S
reactant | 4-bromo-1-ethyl-1H-pyrazole | BrC=1C=NN(C1)CC | C5H7BrN2
product | {4-[6-Chloro-1-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl]-pyrazol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SC1=C(N(C2=C(C(=CC=C12)Cl)F)C=1C=NN(C1)CC)C)=O | C21H21ClFN5O2S
